US08008498B2
6-(4-Hydroxy-2-methoxyphenyl)-5-[N-(2-methoxyphenyl)-N-(9-fluorenylmethoxycarbonyl)aminomethyl]-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 5)
6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 4-1, 37.7 mg, 0.0876 mmol) and sodium hydrogen carbonate (9.5 mg, 0.113 mmol) were dissolved in 1,4-dioxane (0.5 mL)-water (0.5 mL), and then 9-fluorenylmethoxycarbonyl chloride (25.6 mg, 0.0990 mmol) was added thereto under ice cooling. After the reaction mixture was stirred at room temperature for 3 hours, it was diluted with ethyl acetate (10 mL). The mixture was washed with 1N aqueous HCl solution (10 mL), water (10 mL) and saturated brine (10 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (19.7 mg) as a colorless amorphous product. (Yield 34%)

reactant | 6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC)OC | C27H30N2O3
reactant | sodium hydrogen carbonate | 0.113 mmol, 9.5 mg | C(O)([O-])=O.[Na+]
reactant | 9-fluorenylmethoxycarbonyl chloride | 0.0990 mmol, 25.6 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 6-(4-Hydroxy-2-methoxyphenyl)-5-[N-(2-methoxyphenyl)-N-(9-fluorenylmethoxycarbonyl)aminomethyl]-2,2,4-trimethyl-1,2-dihydroquinoline | 19.7 mg, Yield 34% | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C1=C(C=CC=C1)OC)OC | C42H40N2O5
